US06114330
5.53 ml of a 1.6 M solution of butyllithium in hexane are added dropwise at -78° C. within 20 min. to a solution of 1.48 g of 1-bromo-4-fluoro-benzene in 5 ml of tetrahydrofuran. The resulting white suspension is stirred for a further hour. A solution of 1 g of phthalazine in 5 ml of tetrahydrofuran is added dropwise at -78° C. within 10 min. The reaction mixture is left to warm to room temperature, treated with 50 ml of water and extracted 3 times with 50 ml of dichloromethane each time. The organic phases are combined washed with 50 ml of water and 50 ml of a saturated sodium chloride solution, dried over magnesium sulphate, filtered, the filtrate is concentrated and the residue is chromatographed on 100 g of silica gel with the eluent hexane/ethyl acetate 1:1. 1.49 g (86%) of (RS)-1-(4-fluoro-phenyl)-1,2-dihydro-phthalazine are obtained as a yellow oil. MS: 227 (M+H)+.

reactant | butyllithium | C(CCC)[Li]
reactant | 1-bromo-4-fluoro-benzene | 1.48 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | phthalazine | 1 g | C1=NN=CC2=CC=CC=C12 | C8H6N2
reactant | water | 50 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (RS)-1-(4-fluoro-phenyl)-1,2-dihydro-phthalazine | 1.49 g, 86% | FC1=CC=C(C=C1)C1NN=CC2=CC=CC=C12 | C14H11FN2
